US05633379
2 g (5.3 mmol) of 4-chloro-N-(3-phenylpropylthio)acetyl-anthranilic acid methyl ester are placed in 20 ml of tetrahydrofuran at 0°. A 1-molar tetrahydrofuran solution of sodium bis-trimethylsilylamide is added dropwise thereto. The mixture is then stirred for 20 minutes at 0° and for 2 hours at room temperature. The reaction mixture is poured into 200 ml of 2N hydrochloric acid/ice and the resulting white suspension is filtered off. The resulting colourless crystals are made into a suspension in ethanol and stirred for 2 hours. The mixture is filtered, followed by washing with ethanol and diethyl ether. After drying, 7-chloro-4-hydroxy-3-(3-phenylpropylthio)-2(1H)-quinolone is obtained in the form of colourless crystals having a melting point of 184°-186°.

reactant | 4-chloro-N-(3-phenylpropylthio)acetyl-anthranilic acid methyl ester | 5.3 mmol, 2 g | COC(C=1C(NC(CSCCCC2=CC=CC=C2)=O)=CC(=CC1)Cl)=O | C19H20ClNO3S
reactant | sodium bis-trimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1-molar | O1CCCC1 | C4H8O
product | 7-chloro-4-hydroxy-3-(3-phenylpropylthio)-2(1H)-quinolone | ClC1=CC=C2C(=C(C(NC2=C1)=O)SCCCC1=CC=CC=C1)O | C18H16ClNO2S
